US07666879B2
A. 5-Bromo-4-tert-butyl-pyridin-2-ylamine
Dissolve 4-tert-butyl-pyridin-2-ylamine (3 g, 20 mmol) in anhydrous acetonitrile (25 mL). Add N-bromosuccinimide (3.56 g, 20 mmol). Stir the reaction in the dark for overnight at room temperature. Dilute with EtOAc and wash with 1 N NaOH (aq.) and saturated aqueous sodium bicarbonate. Extract the organic layer. Wash the aqueous layer further with DCM. Dry the combined organic layers (MgSO4), and purify by silica gel column chromatography (EtOAc/hexane) to yield 2 g of the title compound (44%). LCMS (ES), m/z 231 (M+1).

reactant | 4-tert-butyl-pyridin-2-ylamine | 20 mmol, 3 g | C(C)(C)(C)C1=CC(=NC=C1)N | C9H14N2
reactant | N-bromosuccinimide | 20 mmol, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromo-4-tert-butyl-pyridin-2-ylamine | 2 g, 44% | BrC=1C(=CC(=NC1)N)C(C)(C)C | C9H13BrN2
